US07429565B2
[2-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-ethoxymethyl]-phosphonic acid
To a solution of {2-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-ethoxymethyl}-phosphonic acid diisopropyl ester (7.5 mg, 0.014 mmol) in acetonitrile (2 mL) and 2,6-lutidine (25 μL, 0.21 mmol) was added trimethylsilyl bromide (27 μL, 0.21 mmol) at room temperature. The reaction was allowed to proceed for 18 hours when completion of the reaction was indicated by LCMS. The reaction was quenched by addition of MeOH and concentration. The residue was purified by RP-HPLC using a C18 column. The collected product was dissolved in a solution of 10% TFA/CH2Cl2 to assure complete deprotection. The reaction mixture was lyophilized to provide the desired product. 1H NMR (300 MHz, CD3OD) δ 2.12 (s, 3H), 2.98 (t, 2H, J=7 Hz), 3.66-3.76 (m, 4H), 3.78 (s, 3H), 5.21 (s, 2H) ppm; MS (m/z) 331 [M−H]−.

reactant | {2-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-ethoxymethyl}-phosphonic acid diisopropyl ester | 0.014 mmol, 7.5 mg | C(C)(C)OP(OC(C)C)(=O)COCCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C | C24H41O8PSi
reactant | 2,6-lutidine | 0.21 mmol, 25 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl bromide | 0.21 mmol, 27 μL | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | [2-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-ethoxymethyl]-phosphonic acid | OC1=C2C(OCC2=C(C(=C1CCOCP(O)(O)=O)OC)C)=O | C13H17O8P
